US05225402
1-[1-(4-Cyanobenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (1 g) is dissolved in chloroform (10 ml) and thereto is added ethanol (0.18 ml). Under ice cooling, hydrochloric acid gas is passed through the mixture to saturate and further the mixture is stirred at 5°-7° C. for 4 days. After the reaction, the solvent is concentrated to give 1-{1-[4-(1-ethoxy-1-iminomethyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1 g). This product is used for the subsequent reaction.

reactant | 1-[1-(4-Cyanobenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 1 g | C(#N)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H21N3O2
reactant | ethanol | 0.18 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-{1-[4-(1-ethoxy-1-iminomethyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1 g | C(C)OC(=N)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H27N3O3
